US08183237B2
1.2 4-(5-Amino-2-methyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
4-(2-Methyl-5-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (0.145 g, 0.45 mmol) was dissolved in a mixture of 10 mL of ethanol and 10 mL of water. Ammonium formiate (0.284 g, 0.4 mmol) and 10% Pd/C (0.048 g) were added and the reaction mixture was stirred for 8 h at 40° C. The reaction mixture was then filtered over Celite and the solvent was evaporated to yield 0.064 g of the title compound which was used in subsequent steps without further purification.

reactant | 4-(2-Methyl-5-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.45 mmol, 0.145 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)[N+](=O)[O-])C | C16H23N3O4
reactant | Ammonium formiate | 0.4 mmol, 0.284 g | C(=O)[O-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
catalyst | Pd/C | 0.048 g | [Pd] | Pd
product | 4-(5-Amino-2-methyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.064 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)N)C | C16H25N3O2
